US07544699B2
{Benzyl-[7-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-acetic acid
The title compound (39 mg) was prepared following the same procedures that was described for example 432 from benzyl glycine methyl ester (17.9 mg, 0.1 mmol) and 7-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl chloride (46 mg, 0.1 mmol).

reactant | benzyl glycine methyl ester | 0.1 mmol, 17.9 mg | COC(CNCC1=CC=CC=C1)=O | C10H13NO2
reactant | 7-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl chloride | 0.1 mmol, 46 mg | C(C)(C)(C)C1=CC=C(OC2=CC=C3C=C(N=C(C3=C2)CC2CCCC2)C(=O)Cl)C=C1 | C26H28ClNO2
product | {Benzyl-[7-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-acetic acid | 39 mg | C(C1=CC=CC=C1)N(C(=O)C=1N=C(C2=CC(=CC=C2C1)OC1=CC=C(C=C1)C(C)(C)C)CC1CCCC1)CC(=O)O | C35H38N2O4
